US06034055
11f N-[2-(N-Carbobenzoxy-4-O-benzyl-L-aspartyl-D-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide.
from N-(2D-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide and N-carbobenzoxy-4-O-benzyl-L-aspartic acid. Yield 63%. Rf 0.57 (dichloromethane/methanol/conc. ammonia 15:1:0.1).

reactant | N-(2D-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide | N[C@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C33H65N3O6
reactant | N-carbobenzoxy-4-O-benzyl-L-aspartic acid | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)O | C19H19NO6
reactant | ammonia | N | H3N
solvent | dichloromethane methanol | ClCCl.CO
product | N-[2-(N-Carbobenzoxy-4-O-benzyl-L-aspartyl-D-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide | Yield 63% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C52H82N4O11
